US05346880
A tetrahydrofuran solution of methyl 2-(4,6-dimethoxy-2-Pyrimidinylthio)-hexanoate (3.2 g) was added dropwise to a tetrahydrofuran suspension of aluminum lithium hydride (0.7 g) under ice-cooling, followed by 30 minutes stirring at room temperature, addition thereto of water and removal therefrom of precipitates by filtration. Then tetrahydrofuran was distilled off form the reaction liquid under reduced pressure and the resulting residue was subjected to silica gel column chromatography, to obtain the desired 2-(4,6-dimethoxy-2-pyrimidinylthio)hexanol (2.7 g). nD 1.5303.

reactant | methyl 2-(4,6-dimethoxy-2-Pyrimidinylthio)-hexanoate | 3.2 g | COC1=NC(=NC(=C1)OC)SC(C(=O)OC)CCCC | C13H20N2O4S
reactant | aluminum lithium hydride | 0.7 g | [H-].[Li+].[Al+3].[H-].[H-].[H-]
solvent | tetrahydrofuran | O1CCCC1 | C4H8O
product | 2-(4,6-dimethoxy-2-pyrimidinylthio)hexanol | 2.7 g | COC1=NC(=NC(=C1)OC)SC(CO)CCCC | C12H20N2O3S
